US08445509B2
Production of 6-[(4-methoxybenzyl)oxy]-3-methylimidazo[1,2-a]pyridin-2-amine
To a suspension of 2-[5-[(4-methoxybenzyl)oxy]-2-{[(4-methylphenyl)sulfonyl]imino}pyridin-1(2H)-yl]propanamide (2.6 g, 5.71 mmol) in tetrahydrofuran (25 mL) was added trifluoroacetic acid anhydride (2.35 mL, 17.1 mmol) at 0° C., and the mixture was stirred at room temperature for 1 hr. 8N Aqueous sodium hydroxide solution was added to the reaction mixture until it reached pH 12 to 13, and the mixture was stirred at 50° C. for 5 hr. Water and ethyl acetate were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (1.0 g, 68%) as a white solid.

reactant | 2-[5-[(4-methoxybenzyl)oxy]-2-{[(4-methylphenyl)sulfonyl]imino}pyridin-1(2H)-yl]propanamide | 5.71 mmol, 2.6 g | COC1=CC=C(COC=2C=CC(N(C2)C(C(=O)N)C)=NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C23H25N3O5S
reactant | trifluoroacetic acid anhydride | 17.1 mmol, 2.35 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydroxide | 8N | [OH-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(4-methoxybenzyl)oxy]-3-methylimidazo[1,2-a]pyridin-2-amine | 1.0 g, 68% | COC1=CC=C(COC=2C=CC=3N(C2)C(=C(N3)N)C)C=C1 | C16H17N3O2
